US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (307 mg, 1.60 mmol) (described in a previous experimental) and 3-nitroaniline (2.00 g, 14.5 mmol) is stirred at 200° C. for 1.5 h, and the crude product is suspended in MeOH/THF (4:1, 250 mL) and hydrogenated over 5% Pd/C (2 g) at 60 psi and 20° C. for 24 h. The solution is filtered over celite, washing thoroughly (hot MeOH), and is then absorbed onto alumina and chromatographed on alumina (4-8% EtOH/CHCl3) to give 7-amino-4-(3-aminoanilino)pyrido[4,3-d]pyrimidine (66 mg, 16%) as a green solid. 1H NMR (DMSO) δ 9.57 (1H, brs), 9.30 (1H, s), 8.33 (1H, s), 7.04 (1H, t, J=2.0 Hz), 6.99 (1H, t, J=8.0 Hz), 6.88 (1H, brd, J=8.0 Hz), 6.55 (2H, brs), 6.40 (1H, s), 6.34 (1H, dd, J=7.9, 1.3 Hz), 5.10 (2H, brs).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.60 mmol, 307 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-nitroaniline | 14.5 mmol, 2.00 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | MeOH THF | 250 mL | CO.C1CCOC1
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 7-amino-4-(3-aminoanilino)pyrido[4,3-d]pyrimidine | 66 mg, 16% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)N | C13H12N6
